US06608203B2
6-Benzyloxy-2-(naphthalene-1-sulfonyl)-1-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-1,2,3,4-tetrahydroisoquinoline
A solution of 6-benzyloxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-1,2,3,4-tetrahydroisoquinoline (0.015 g, 0.04 mmol) and Et3N (0.01 ml, 0.07 mmol) in anhydrous THF (0.35 ml) was added to a solution of 1-naphthalenesulfonyl chloride (0.04 mmol) in anhydrous THF (0.4 ml) at rt in a sealed reaction vessel. The resulting suspension was stirred at rt for 20 hr, then evaporated to dryness. The product was suspended in a mixture of H2O(0.4 ml) and saturated NaHCO3 solution (0.4 ml), then extracted with CH2Cl2 (3×0.75 ml). The combined extracts were evaporated to dryness to give the crude product. Purification by reverse-phase HPLC on a Primesphere C-18HC (50.0 mm×10.0 mm column with 5 m particle size) column, eluting with a linear gradient starting at time 0 min. of H2O:CH3CN 1% TFA/H2O (85:10:5), increasing to H2O:CH3CN:1% TFA/H2O (5:90:5) at 8 min., detected on a Micromass Platform 2 mass spectrometer (DAD 190-600 nM) gave material which, after evaporation to dryness, was purified by reverse-phase HPLC on a Primesphere C-18HC (3.0 mm×2.0 mm column with 5 m particle size) column, eluting with a linear gradient starting at time 0 min. of H2O:CH3CN:TFA (99.9:0:0.1), increasing to H2O:CH3CN:TFA (0:99.9:0.1) at 4 min., detected with a UV detector (300 nM +/−90 nM and 254 nM +/−25 nM), gave an eluent that was evaporated to dryness to give the named product. MS m/e 583 (M++1).

reactant | 6-benzyloxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-1,2,3,4-tetrahydroisoquinoline | 0.04 mmol, 0.015 g | C(C1=CC=CC=C1)OC=1C=C2CCNC(C2=CC1)C1=CC=C(C=C1)OCCN1CCCC1 | C28H32N2O2
reactant | Et3N | 0.07 mmol, 0.01 ml | CCN(CC)CC | C6H15N
reactant | 1-naphthalenesulfonyl chloride | 0.04 mmol | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
solvent | THF | 0.35 ml | C1CCOC1 | C4H8O
solvent | THF | 0.4 ml | C1CCOC1 | C4H8O
product | 6-Benzyloxy-2-(naphthalene-1-sulfonyl)-1-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-1,2,3,4-tetrahydroisoquinoline | C(C1=CC=CC=C1)OC=1C=C2CCN(C(C2=CC1)C1=CC=C(C=C1)OCCN1CCCC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C38H38N2O4S
